US07091220B2
[[2-(3-Chloro-4-fluoro-phenyl)-1H-indol-3-yl]-(3,4-dimethoxy-phenyl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-(3-chloro-4-fluoro-phenyl)-1H-indole and (3,4-dimethoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 3,4-dimethoxy-benzaldehyde and dimethylamine.

reactant | 2-(3-chloro-4-fluoro-phenyl)-1H-indole | ClC=1C=C(C=CC1F)C=1NC2=CC=CC=C2C1 | C14H9ClFN
reactant | (3,4-dimethoxy-benzylidene)-dimethylammonium chloride | [Cl-].COC=1C=C(C=[N+](C)C)C=CC1OC
reactant | 3,4-dimethoxy-benzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | dimethylamine | CNC | C2H7N
product | [[2-(3-Chloro-4-fluoro-phenyl)-1H-indol-3-yl]-(3,4-dimethoxy-phenyl)-methyl]-dimethyl-amine | ClC=1C=C(C=CC1F)C=1NC2=CC=CC=C2C1C(C1=CC(=C(C=C1)OC)OC)N(C)C | C25H24ClFN2O2
